US06995171B2
5-(4-Methoxy-phenyl)-1H-pyrazol-3-ol (30.8 g, 99%) was prepared as a white solid from 3-(4-methoxy-phenyl)-3-oxo-propionic acid ethyl ester (29.9 mL, 156 mmol) and hydrazine hydrate (14.6 mL, 468 mmol) by a procedure analogous to Example 22. C10H10N2O2: 1H NMR (D6-DMSO): δ 7.55 (d, J=8.8 Hz, 2H), 6.93 (d, J=8.8 Hz, 2H), 5.75 (s, 1H), 3.73 (s, 3H) ppm.

reactant | 3-(4-methoxy-phenyl)-3-oxo-propionic acid ethyl ester | 156 mmol, 29.9 mL | C(C)OC(CC(=O)C1=CC=C(C=C1)OC)=O | C12H14O4
reactant | hydrazine hydrate | 468 mmol, 14.6 mL | O.NN
product | 5-(4-Methoxy-phenyl)-1H-pyrazol-3-ol | 30.8 g, 99% | COC1=CC=C(C=C1)C1=CC(=NN1)O | C10H10N2O2
